US04818756
Preparation of N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-2-(acetylamino)benzenesulphonamide
0.02 mol of N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-2-aminobenzenesulphonamide and 0.05 mol of acetic anhydride are stirred at room temperature for 2 hours. The mixture is evaporated to dryness, concentrated aqueous ammonia solution is poured onto the residue and the base is extracted by shaking with methylene chloride, Purification is carried out by chromatography on silica gel; the eluting agent is CH2Cl2 /CH3OH (9:1). The substance is recrystallised from isopropanol.

reactant | N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-2-aminobenzenesulphonamide | 0.02 mol | N1=C(N=CC=C1)N1CCN(CC1)CCCCNS(=O)(=O)C1=C(C=CC=C1)N | C18H26N6O2S
reactant | acetic anhydride | 0.05 mol | C(C)(=O)OC(C)=O | C4H6O3
product | N-(4-(4-(2-pyrimidinyl)-1-piperazinyl)butyl)-2-(acetylamino)benzenesulphonamide | N1=C(N=CC=C1)N1CCN(CC1)CCCCNS(=O)(=O)C1=C(C=CC=C1)NC(C)=O | C20H28N6O3S
